US08334301B2
tert-butyl [(5-bromo-4-phenyl-2-thienyl)methyl]methylcarbamate
To a solution of tert-butyl methyl[(4-phenyl-2-thienyl)methyl]carbamate (4.77 g) in N,N-dimethylformamide (30 mL) was added N-bromosuccinimide (2.83 g) at room temperature and the mixture was stirred for 4 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=99:1→19:1) to give the title compound as a pale-yellow oil (yield 4.1 g, yield of 2 steps 67%).

reactant | tert-butyl methyl[(4-phenyl-2-thienyl)methyl]carbamate | 4.77 g | CN(C(OC(C)(C)C)=O)CC=1SC=C(C1)C1=CC=CC=C1 | C17H21NO2S
reactant | N-bromosuccinimide | 2.83 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | tert-butyl [(5-bromo-4-phenyl-2-thienyl)methyl]methylcarbamate | yield 4.1 g, 67% | BrC1=C(C=C(S1)CN(C(OC(C)(C)C)=O)C)C1=CC=CC=C1 | C17H20BrNO2S
